US06855710B2
(Z)-3-{1-[4-(2-tert.butoxycarbonylamino-ethyl)-phenylamino]-1-(4-acetylaminomethyl-phenyl)-methylidene}-5-nitro-2-indolinone
Prepared analogously to Example 31 from (Z)-3-{1-[4-(2-tert.butoxycarbonylamino-ethyl)-phenylamino]-1-(4-aminomethyl-phenyl)-methylidene}-5-nitro-2-indolinone and acetic anhydride in dioxane.

reactant | (Z)-3-{1-[4-(2-tert.butoxycarbonylamino-ethyl)-phenylamino]-1-(4-aminomethyl-phenyl)-methylidene}-5-nitro-2-indolinone | C(C)(C)(C)OC(=O)NCCC1=CC=C(C=C1)N\C(\C1=CC=C(C=C1)CN)=C\1/C(NC2=CC=C(C=C12)[N+](=O)[O-])=O | C29H31N5O5
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | dioxane | O1CCOCC1 | C4H8O2
product | (Z)-3-{1-[4-(2-tert.butoxycarbonylamino-ethyl)-phenylamino]-1-(4-acetylaminomethyl-phenyl)-methylidene}-5-nitro-2-indolinone | C(C)(C)(C)OC(=O)NCCC1=CC=C(C=C1)N\C(\C1=CC=C(C=C1)CNC(C)=O)=C\1/C(NC2=CC=C(C=C12)[N+](=O)[O-])=O | C31H33N5O6
